US08304546B2
Ethyl (4-{5-fluoro-1-[(2-morpholin-4-yl-ethylcarbamoyl)methyl]-4-oxo-8-propoxy-1,4-dihydroquinolin-3-yl}phenoxy)acetate (300 mg) was added to a 7N ammonia-methanol solution (15 ml) and then stirred at 70° C. for 43 hours. The mixture was cooled to room temperature and concentrated under reduced pressure. The residue was purified using silica gel column chromatography (dichloromethane:methanol=50:1→9:1→ethyl acetate:methanol=10:1). The purified product was concentrated under reduced pressure, and the residue was recrystallized from ethyl acetate-n-hexane, giving a pale yellow powder of 2-(4-{5-fluoro-1-[(2-morpholin-4-yl-ethylcarbamoyl)methyl]-4-oxo-8-propoxy-1,4-dihydroquinolin-3-yl}phenoxy)acetamide (100 mg, yield: 35%)

reactant | Ethyl (4-{5-fluoro-1-[(2-morpholin-4-yl-ethylcarbamoyl)methyl]-4-oxo-8-propoxy-1,4-dihydroquinolin-3-yl}phenoxy)acetate | 300 mg | FC1=C2C(C(=CN(C2=C(C=C1)OCCC)CC(NCCN1CCOCC1)=O)C1=CC=C(OCC(=O)OCC)C=C1)=O | C30H36FN3O7
reactant | ammonia methanol | 7N, 15 ml | N.CO
product | 2-(4-{5-fluoro-1-[(2-morpholin-4-yl-ethylcarbamoyl)methyl]-4-oxo-8-propoxy-1,4-dihydroquinolin-3-yl}phenoxy)acetamide | 100 mg, yield: 35% | FC1=C2C(C(=CN(C2=C(C=C1)OCCC)CC(NCCN1CCOCC1)=O)C1=CC=C(OCC(=O)N)C=C1)=O | C28H33FN4O6
